US07220856B2
Preparation of 6-Chloro-4-(piperazin-1-yl)quinoline
4,6-Dichloroquinoline (De, D., Byers L. D., Krogstad, D. J. J. Heterocyclic Chem. 1997, 34, 315) (0.34 g, 1.7 mmol) and 1-tert-butoxycarbonylpiperazine (1.58 g, 8.5 mmol) are reacted according to method A. The Boc group is cleaved with trifluoroacetic acid (5 mL) in CH2Cl2 (5 mL) giving 0.25 g of the product.

reactant | 4,6-Dichloroquinoline | 1.7 mmol, 0.34 g | ClC1=CC=NC2=CC=C(C=C12)Cl | C9H5Cl2N
reactant | 1-tert-butoxycarbonylpiperazine | 8.5 mmol, 1.58 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-4-(piperazin-1-yl)quinoline | 0.25 g | ClC=1C=C2C(=CC=NC2=CC1)N1CCNCC1 | C13H14ClN3
